US05051413
23 ml (178 mmols) of trimethylsilyl bromide are added dropwise at room temperature to a solution of 18.3 g (44.5 mmols) of benzyl E-2-formylamino-4-methyl-5-diisopropylphosphono-3-pentenoate in 73 ml of dichloromethane. After 20 hours at room temperature 46 ml of benzyl alcohol are added dropwise, and the reaction mixture is allowed to stand for additional 20 hours at room temperature. The dichloromethane is distilled off, first 40 ml of ethanol and then dropwise 40 ml of propyleneoxide in 40 ml of ethanol are added. The crystalline precipitate formed is filtered off, triturated with 200 ml of water and filtrated off again. Benzyl E-2-amino-4-methyl-5-phosphono-pentenoate of m.p. 196°-197° (decomp.) is thus obtained.

reactant | trimethylsilyl bromide | 178 mmols, 23 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | benzyl E-2-formylamino-4-methyl-5-diisopropylphosphono-3-pentenoate | 44.5 mmols, 18.3 g | C(=O)NC(C(=O)OCC1=CC=CC=C1)\C=C(\CP(=O)(OC(C)C)OC(C)C)/C | C20H30NO6P
reactant | benzyl alcohol | 46 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dichloromethane | 73 ml | ClCCl | CH2Cl2
product | Benzyl E-2-amino-4-methyl-5-phosphono-pentenoate | N\C(\C(=O)OCC1=CC=CC=C1)=C\C(CP(=O)(O)O)C | C13H18NO5P
